US05051422
N-(2-Methoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine
In a manner similar to Preparation 2, react N-(2-methoxyphenyl)-2-[(phenylmethyl)amino]acetamide (0.31 g, 1.1 mmol) with lithium aluminum hydride (0.09 g, 2.4 mmol) to obtain the title compound.

reactant | N-(2-methoxyphenyl)-2-[(phenylmethyl)amino]acetamide | 1.1 mmol, 0.31 g | COC1=C(C=CC=C1)NC(CNCC1=CC=CC=C1)=O | C16H18N2O2
reactant | lithium aluminum hydride | 2.4 mmol, 0.09 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | N-(2-Methoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine | COC1=C(C=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2O
